US03944675
N-(3,4-Dimethoxyphenylethyl)-1-adamantanecarboxamide
Subject 2.0 g. of adamantane carboxylic acid chloride 1.8 g. (10.0 mmoles) of homoveratrylamine and 5.0 ml. of triethylamine to the process of Example 11. Crystallize the residue obtained thereby from an ethyl acetate-ethyl ether mixture to obtain the title product, m.p. 132°-133°C.

reactant | adamantane carboxylic acid chloride | 1.8 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | homoveratrylamine | 10.0 mmoles | C(CC1=CC(OC)=C(OC)C=C1)N | C10H15NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate ethyl ether | C(C)(=O)OCC.C(C)OCC
product | N-(3,4-Dimethoxyphenylethyl)-1-adamantanecarboxamide | COC=1C=C(C=CC1OC)CCNC(=O)C12CC3CC(CC(C1)C3)C2 | C21H29NO3
